US07153878B2
4-Isopropyl-2-(4-trifluoromethyl-phenyl)-oxazole-5-carboxylic acid ethyl ester (0.53 g, 1.62 mmol) is stirred in tetrahydrofuran (25 mL) at 0° C. Lithium aluminum hydride (0.122 g, 3.23 mmol) is added and the mixture is stirred 18 hr at room temperature. The mixture is diluted carefully with 1M aqueous hydrochloric acid (10 mL), and the product is extracted with ethyl acetate (three 75 mL portions). The extracts are combined, dried over anhydrous magnesium sulfate, filtered, and concentrated to afford [4-Isopropyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-methanol as a white solid, 0.46 g, 100%. MS (M++1) 286.

reactant | 4-Isopropyl-2-(4-trifluoromethyl-phenyl)-oxazole-5-carboxylic acid ethyl ester | 1.62 mmol, 0.53 g | C(C)OC(=O)C1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)C(C)C | C16H16F3NO3
reactant | Lithium aluminum hydride | 3.23 mmol, 0.122 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 1M, 10 mL | Cl | ClH
product | [4-Isopropyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-methanol | C(C)(C)C=1N=C(OC1CO)C1=CC=C(C=C1)C(F)(F)F | C14H14F3NO2
